US07906649B2
To a solution of 2-methyl-2-thiopseudourea sulfate (3.5 g, 25 mmol) in ethanol at 0° C. was added a solution of sodium ethoxide (9.6 mL, 21%). After stirring for 10 min, a solution of tert-butyl 3-[(dimethylamino)methylene]-4-oxopyrrolidine-1-carboxylate (2.0 g, 8.32 mmol) in ethanol was added, and the mixture was heated at 80° C. for 1 h. Additional 2-methyl-2-thiopseudourea sulfate (3.5 g, 25 mmol) and sodium ethoxide (9.6 mL, 21%) was added and heated at 80° C. for 1 h. The ethanol was removed under reduced pressure, the residue was diluted with ethyl acetate (400 mL), washed with saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate, and concentrated. The residue was purified on a Biotage silica gel cartridge (gradient 10-35% ethyl acetate in hexanes) to yield tert-butyl 2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate.

reactant | 2-methyl-2-thiopseudourea sulfate | 25 mmol, 3.5 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium ethoxide | 9.6 mL | [O-]CC.[Na+]
reactant | tert-butyl 3-[(dimethylamino)methylene]-4-oxopyrrolidine-1-carboxylate | 8.32 mmol, 2.0 g | CN(C)C=C1CN(CC1=O)C(=O)OC(C)(C)C | C12H20N2O3
reactant | 2-methyl-2-thiopseudourea sulfate | 25 mmol, 3.5 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium ethoxide | 9.6 mL | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | tert-butyl 2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate | CSC=1N=CC2=C(N1)CN(C2)C(=O)OC(C)(C)C | C12H17N3O2S
